US06515003B1
To a solution of 3-bromo-4-chlorobenzoic acid (3.00 g, 12.74 mmol) and cesium carbonate (6.23 g, 19.11 mmol) in acetonitrile (70 mL) was added iodoethane (5.1 mL, 63.7 mmol). The reaction mixture was heated at reflux overnight. After cooling to room temperature, the solution was extracted with ethyl acetate. The organic layer was washed successively with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated. Choromatography on silica gel (biotage, 5% EtOAc in hexane) afforded 3.5 g of ethyl 3-bromo-4-chlorobenzoate (97%). 1H NMR (300 MHz; CDCl3) 1.40 (t, 3H); 4.37 (q, 2H); 7.52 (d, J=8.1 Hz, 1H); 7.91 (dd, J1=8.4 Hz, J2=1.8 Hz, 1H); 8.28 (d, J=1.8 Hz, 1H).

reactant | 3-bromo-4-chlorobenzoic acid | 12.74 mmol, 3.00 g | BrC=1C=C(C(=O)O)C=CC1Cl | C7H4BrClO2
reactant | cesium carbonate | 19.11 mmol, 6.23 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodoethane | 63.7 mmol, 5.1 mL | ICC | C2H5I
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | ethyl 3-bromo-4-chlorobenzoate | 3.5 g, 97% | BrC=1C=C(C(=O)OCC)C=CC1Cl | C9H8BrClO2
